US08541588B2
4-Chloro-2-piperidin-4-ylphenol hydrobromide
To 4-(5-chloro-2-methoxyphenyl)piperidine (Preparation 233, 40 g, 0.177 mol) was added hydrogen bromide (48% in water, 100 ml) and refluxed for 24 hours before concentrating in vacuo. 1,4-Dioxane was added and solution concentrated in vacuo. The resulting crystals were washed with diethyl ether and dried in vacuo to give the title compound as white crystals, 53 g, 97% yield.

reactant | 4-(5-chloro-2-methoxyphenyl)piperidine | 0.177 mol, 40 g | ClC=1C=CC(=C(C1)C1CCNCC1)OC | C12H16ClNO
reactant | hydrogen bromide | 100 ml | Br | BrH
product | 4-Chloro-2-piperidin-4-ylphenol hydrobromide | 97% yield | Br.ClC1=CC(=C(C=C1)O)C1CCNCC1 | InChI=1S/C11H14ClNO.BrH/c12-9-1-2-11(14)10(7-9)8-3-5-13-6-4-8;/h1-2,7-8,13-14H,3-6H2;1H
